US09127109B2
SBR Initiated with VDPP
Sample 6 was the same as Sample 5 with a couple of exceptions. Ingredient 4, DTHFP/hexane, was added at 0.37 kg/hr (0.10 M DTHFP). An additional ingredient, VDPP/hexane (0.18 kg/hr, 0.2 M VDPP) was mixed with ingredients 3, 4, 5, and 6 and allowed to mix for about 14 minutes prior to entering the bottom of the reactor. Polymer properties for Sample 6 were 33 ML4, 2.3 sec t-80, and 99.7% conversion.

reactant | VDPP hexane | 0.2 M | C=C(P(C1=CC=CC=C1)C2=CC=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4.CCCCCC
solvent | hexane | CCCCCC | C6H14
product | VDPP | C=C(P(C1=CC=CC=C1)C2=CC=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4 | C26H22P2
